US08431713B2
Step J: Preparation of 7-(2-(thieno[3,2-b]pyridin-7-yl)disulfanyl)thieno[3,2-b]pyridine:
Thieno[3,2-b]pyridine-7-thiol (1.00 g, 5.9 mmol) was dissolved in dichloromethane (40 mL). The solution was cooled to 0° C. and sulfuryl chloride (1M in dichloromethane, 2.9 mL, 2.9 mmol) was added dropwise and the reaction stirred while warming to ambient temperature. The solution stirred for 5 hours at ambient temperature and then concentrated to dryness. The residue was left standing under open air for two days. The residue was then diluted in dichloromethane and was neutralized with saturation NaHCO3 solution. The organic layer was separated, dried, and concentrated. The residue was triturated with ether and the solid was filtered and dried to provide the title compound (0.37 g, 46% yield) as a tan solid.

reactant | Thieno[3,2-b]pyridine-7-thiol | 5.9 mmol, 1.00 g | S1C=CC2=NC=CC(=C21)S | C7H5NS2
reactant | sulfuryl chloride | 2.9 mmol, 1M, 2.9 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 7-(2-(thieno[3,2-b]pyridin-7-yl)disulfanyl)thieno[3,2-b]pyridine | 0.37 g, 46% yield | S1C=CC2=NC=CC(=C21)SSC2=C1C(=NC=C2)C=CS1 | C14H8N2S4
